US04018777
1,3-Diacetyl-2-[4-Isopropenyl-3-Pyridyl]-5-(3-Methyl-2-Octyl)Resorcinol
Thionyl chloride (5 ml.) was added dropwise to a stirred solution of 1.27 g. of 1,3-diacetyl-2-{4-[1-hydroxy-1-methyl)ethyl]-3-pyridyl}-5-(3-methyl-2-octyl)resorcinol in 40 ml. of pyridine, cooled in an ice-salt bath at -10°. The mixture was stirred and the temperature was allowed to rise to 0° within 11/2 hours. The mixture was poured into ice water and was extracted with ether. The ether extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was chromatographed on a Florisil column (60-100 mesh) using graded methanol/benzene solvent mixtures to give the pure product.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3-methyl-2-octyl)resorcinol | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3-Diacetyl-2-[4-Isopropenyl-3-Pyridyl]-5-(3-Methyl-2-Octyl)Resorcinol | C(C)(=O)C1(O)C(C(O)(CC(=C1)C(C)C(CCCCC)C)C(C)=O)C=1C=NC=CC1C(=C)C | C27H39NO4
